US08053440B2
2-Amino-4,6-dimethoxybenzamide (0.5 g, 2.55 mmol) and methyl iodide (0.17 mL, 2.81 mmol) were mixed in a closed bomb and heated at 110° C. for 14 h. The compound was washed with a dichloromethane-methanol mixture. After removing the solvent, the crude was purified by silica gel column chromatography (40 g) employing 1-5% methanol in dichloromethane to give 2,4-dimethoxy-6-methylamino-benzamide (0.027 g, 50.4%).

reactant | 2-Amino-4,6-dimethoxybenzamide | 2.55 mmol, 0.5 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | methyl iodide | 2.81 mmol, 0.17 mL | CI | CH3I
product | 2,4-dimethoxy-6-methylamino-benzamide | 0.027 g, 50.4% | COC1=C(C(=O)N)C(=CC(=C1)OC)NC | C10H14N2O3
